US04059702
A solution of 4.7 g (0.01 mole) of 2,7-bis(3-piperidinopropoxy)fluoren-9-one in methanol is stirred and treated with approximately 0.085 mole of diazomethane by co-distillation with ether into the reaction mixture at a temperature of -15° to -31° C. The reaction mixture is allowed to warm slowly to room temperature overnight. The volatile materials are removed on the steam bath in vacuo and the residue triturated with pentane to induce crystallization. The resulting solid is dissolved in a mixture of pentane and ether, washed several times with a dilute solution of sodium hydroxide, washed with water, dried over anhydrous sodium sulfate, treated with charcoal, filtered and most of the volatile solvents removed from the filtrate. The residue is recrystallized from pentane and again from a methanol-water mixture to yield the desired 9-methoxy-2,7-bis(3-piperidinopropoxy) phenanthrene: m.p. 118.5°-9.5° C., λmaxMeOH 259, and E1cm1% 1430.

reactant | 2,7-bis(3-piperidinopropoxy)fluoren-9-one | 0.01 mole, 4.7 g | N1(CCCCC1)CCCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCCN1CCCCC1)=O | C29H38N2O3
reactant | diazomethane | approximately 0.085 mole | [N+](=[N-])=C | CH2N2
reactant | ether | CCOCC | C4H10O
reactant | methanol | CO | CH4O
product | 9-methoxy-2,7-bis(3-piperidinopropoxy) phenanthrene | COC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCN1CCCCC1)OCCCN1CCCCC1 | C31H42N2O3
